US04385143
Into a 300-ml four-necked flask, were charged 22.2 g of 2-methyl-4-t-butyl-5-hydroxyphenylacetic acid, 150 ml of toluene, 27.0 g of octadecyl alcohol and 1 g of p-toluenesulfonic acid. The mixture was heated under reflux for about one hour while removing the liberated water from the reaction system. After completion of the reaction, the reaction mixture was freed from the catalyst by washing with water and from the solvent by distillation under reduced pressure to obtain 45.0 g (95% yield) of pale yellow octadecyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate which was recrystallized from methanol to yield white crystals melting at 53.0°-54.5° C.

reactant | 2-methyl-4-t-butyl-5-hydroxyphenylacetic acid | 22.2 g | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)O | C13H18O3
reactant | octadecyl alcohol | 27.0 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
catalyst | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | octadecyl 2-methyl-4-t-butyl-5-hydroxyphenylacetate | 45.0 g, 95% yield | CC1=C(C=C(C(=C1)C(C)(C)C)O)CC(=O)OCCCCCCCCCCCCCCCCCC | C31H54O3
